US07163936B2
To a suspension of 1-benzyl-5-(methoxycarbonyl)-2-methylpyridinium bromide (3.2 g, 9.9 mmol) in methanol (50 ml) was added at −70° C. a solution of sodium borohydride (0.75 g, 20 mmol) in water (10 ml). The mixture was raised to 0° C. and stirred for 20 minutes. The reaction mixture was added to ethyl acetate/brine and the mixture was separated with a separating funnel. The aqueous layer was extracted twice with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over magnesium sulfate and the solvent was removed in vacuo. The residue (2.34 g) was purified with silica gel (60 g) chromatography (hexane/ethyl acetate=4/1) to give methyl 1-benzyl-6-methyl-1,2,5,6-tetrahydro-3-pyridinecarboxylate (2.05 g, 84%).

reactant | 1-benzyl-5-(methoxycarbonyl)-2-methylpyridinium bromide | 9.9 mmol, 3.2 g | [Br-].C(C1=CC=CC=C1)[N+]1=C(C=CC(=C1)C(=O)OC)C
reactant | sodium borohydride | 20 mmol, 0.75 g | [BH4-].[Na+]
reactant | ethyl acetate brine | C(C)(=O)OCC.[Cl-].[Na+].O
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | methyl 1-benzyl-6-methyl-1,2,5,6-tetrahydro-3-pyridinecarboxylate | 2.05 g, 84% | C(C1=CC=CC=C1)N1CC(=CCC1C)C(=O)OC | C15H19NO2
